US07763639B2
1-{2-FLUORO-3-[1-(2-HYDROXYETHYL)PIPERIDIN-4-YL]PHENYL}ETHANONE
Preparation according to Example 1: 1-(2-fluoro-3-piperidin-4-ylphenyl)ethanone (0.01 g), acetonitrile (2 ml), potassium carbonate (0.01 g) and 2-iodoethanol (0.01 g). MS m/z (rel. intensity, 70 eV) 265 (M+, 1), 235 (16), 234 (bp), 133 (5), 109 (5).

reactant | 1-(2-fluoro-3-piperidin-4-ylphenyl)ethanone | 0.01 g | FC1=C(C=CC=C1C1CCNCC1)C(C)=O | C13H16FNO
reactant | potassium carbonate | 0.01 g | C([O-])([O-])=O.[K+].[K+]
reactant | 2-iodoethanol | 0.01 g | ICCO | C2H5IO
solvent | acetonitrile | 2 ml | C(C)#N | C2H3N
product | 1-{2-FLUORO-3-[1-(2-HYDROXYETHYL)PIPERIDIN-4-YL]PHENYL}ETHANONE | FC1=C(C=CC=C1C1CCN(CC1)CCO)C(C)=O | C15H20FNO2
